2112-07-07 09:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Admitted to MICU
   - Per outpt ID fellow, flagyl started empirically but no C. diff.
   Recommended starting po vanc empirically. If decomp, change zosyn to
   meropenem. Consider bronch. Will officially c/s ID in AM
   - SBP intermittent decreasing to 70-80 with associated increased
   somnolence. Received 250cc x 2 and 500cc x 1 with transient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2112-7-7**] 02:23 AM
   Levofloxacin - [**2112-7-7**] 03:00 AM
   Vancomycin - [**2112-7-7**] 05:26 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-7-7**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-7-7**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 83 (81 - 106) bpm
   BP: 88/38(50) {78/38(50) - 134/75(84)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    500 mL
                                                                  1,736 mL
   PO:
             TF:
             71 mL
   IVF:
                                                                    500 mL
                                                                  1,665 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    260 mL
   Urine:
                                                                    360 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                  1,476 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Physical Exam:
   Vitals: T 96, HR 87, BP 97/51, RR 13, O2sat 100% on 4LNC
   General: Somnolent, opens eyes to command.
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: Supple, no LAD
   Lungs: Coarse breath sounds with bibasilar rales and decreased air
   movement at left base, no wheezes.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: BS present, nontender, distended but soft with G tube in
   place, +anasarca, bowel sounds present
   GU: foley in place
   Ext: warm, well perfused, pulses palpable, 3+ edema b/l
   Labs / Radiology
   357 K/uL
   8.1 g/dL
   94 mg/dL
   1.2 mg/dL
   27 mEq/L
   5.4 mEq/L
   47 mg/dL
   104 mEq/L
   136 mEq/L
   24.6 %
   24.2 K/uL
        [image002.jpg]
                             [**2112-7-6**]  09:21 PM
                             [**2112-7-7**]  04:28 AM
   WBC
   24.2
   Hct
   24.6
   Plt
   357
   Cr
   1.2
   TropT
   0.18
   0.23
   Glucose
   94
   Other labs: PT / PTT / INR:16.2/36.1/1.4, CK / CKMB /
   Troponin-T:60//0.23, ALT / AST:15/50, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:68.0 %, Band:1.0 %, Lymph:13.0 %, Mono:8.0 %,
   Eos:9.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:419 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Imaging: CT Chest:
   1. No evidence of PE.
   2. Moderate-sized left pleural effusion may be slightly increased in
   size
   compared to prior. Decreased right pleural effusion. Associated
   compressive atelectasis on the left.
   3. Scattered ground-glass opacity and tree-in-[**Male First Name (un) **] opacity suggestive of
   infection or inflammation.
   4. Unchanged extensive atherosclerotic calcification of the thoracic
   aorta with aneurysmal dilatation of the distal thoracic aorta up to 3.5
   cm.
   5. Probable tracheomalacia.
   Microbiology: Urine culture [**2112-7-6**] - pending
   Blood culture [**2112-7-6**] - pending
   Urine legionella - negative
   Influenza - pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   A/P: [**Age over 90 **] yo man with h/o CAD, hypothyroidism, compression fx c/b
   polymicrobial hardware related vertebral osteomyelitis, and recent
   admission for pneumonia p/w dyspnea and cough with ground glass opacity
   and increased pleural effusion on CT chest.
   Dyspnea/Cough:  Most likely etiology is pneumonia given findings of
   ground glass on CT scan.  Influenza pending.  Urine legionella
   negative.  Attempting to obtain sputum sample.  Blood and urine
   cultures pending with no growth to date.  Likely exacerbated by large
   pleural effusion with compressive atelectasis.  Has not undergone
   thoracentesis.  CTA is negative for pulmonary embolism.  Now ruled out
   for MI (although mildly elevated troponins and flat CKs).
   - Vanco, zosyn, and levofloxacin for empiric coverage of HCAP
   - inpatient ID consult today
   - echocardiogram on [**2112-6-21**] with preserved ejection fraction although
   BNP elevated
   - follow urine, blood and sputum culture
   - diagnostic thoracentesis this morning
   - will check ABG this morning to assess for hypercarbia
   Pleural effusion: Unclear etiology. No h/o CHF with unremarkable TTE on
   [**6-21**] although was noted to be fluid overloaded on last admission in
   setting of aggressive IV fluids and BNP elevated at 6239 (no prior for
   comparison). Does have anasarca with low albumin (2 on [**5-23**]). H/o
   hypothyroidism with TSH 14 when checked [**6-23**]. No h/o malignancy.
   - TSH mildly elevated, T4 pending
   - Albumin low at 2.5
   - Thoracentesis in AM
   - Hold diuresis for now in setting of lower running BP
   # Hypotension: Episode of hypotension in ED responsive to IV fluids.
   Concern for sepsis given leukocytosis and sx suggestive of respiratory
   tract infection. [**Month (only) 11**] have been volume down with possible decreased po
   intake in setting of acute illness, lactate mildly elevated at 2.1. No
   evidence of active bleed; Hct significantly above baseline but may
   represent hemoconcentration.  Patient received dobutamine overnight
   with stable blood pressures.
   - Broad abx as above
   - Hold outpt metoprolol and diuresis for now
   - Small fluid boluses as needed to maintain MAP >55
   - Recheck lactate
   - d/c dobutamine as  unlikely his hypotension is caused by systolic
   heart failure.  If blood pressures decreased would opt for peripheral
   dopamine and likely would need central line placement
   # Leukocytosis: Leukocytosis to 15 two weeks ago in setting of
   polymicrobial osteo but now increased to 30 with left shift at OSH,
   likely [**2-8**] new resp infection. No change in bowel habits to suggest C.
   diff although at risk given multiple recent abx regimens. U/A
   nonspecific for infection. No mention in notes of recent steroids.
   Inflammatory markers actually decreased since mid [**Month (only) **].
   - Broad abx as above
   - Sputum and blood cx as above, influenza DFA
   - Check C. diff
   - F/u urine cx
   - Check ESR/CRP for monitoring of osteomyelitis
   - F/u cx data from [**Hospital **] Rehab and [**Hospital1 1504**] if available
   - Trend fever curve and WBC
   - Inpatient ID consult in AM as followed as outpatient for
   osteomyelitis
   - will consider PICC placement today for IV antibiotics
   # Altered mental status: Likely in setting of acute illness and lower
   running BP. TSH elevated on [**2112-6-23**]. Given spine instrumention, CNS
   infection possible but lower on differential given recent negative
   imaging and broad treatment. No focal findings on limited neuro exam.
   - Monitor neuro status
   - Hold outpt neurontin, remeron for now
   - Keep NPO with nutrition via tube feeds
   - Manage hypotension as above
   # Osteomyelitis: In setting of spine instrumentation/hardware. Swabs
   grew out rare bacteroides fragilis ( beta-lactamase positive) on [**5-5**]
   and  E. coli and Klebsiella Oxytoca on [**5-6**]. Swab and bone tissue
   culture on [**5-10**] grew out E. coli and B. fragilis. Treated with course of
   meropenem/ertapenem, completed [**7-4**] and switched to suppressive therapy
   with cefpodoxime and augmentin.  Inflammatory markers decreasing since
   mid [**Month (only) **].
   - Hold cefpodoxime and augmentin given broad abx coverage as above
   - ID consult in AM for abx recs
   - Hold outpt neurontin for now given AMS, tylenol prn for pain
   # Hypothyroidism: TSH 14 on [**2112-6-23**], now 6.4.
   - Add on T4
   - Cont home levothyroxine for now
   .
   # ?ECG changes: H/o CAD s/p CABG [**23**] years ago. Per son, not having
   chest pain but only chest wall soreness [**2-8**] increased work of
   breathing.  Reported new TWI at [**Hospital **] Rehab (ECG not available) but
   baseline at [**Hospital1 1504**] and here. Mildly elevated trop with nl CK likely
   reflects demand v. renal failure.  Troponins slightly elevated but not
   increasing with flat CKs and MBs.
   - Obtain ECG from [**Hospital **] Rehab
   - Monitor on tele
   - echocardiogram this morning
   .
   # Chronic renal failure: Currently at baseline Cr 1.3 (since admission
   for spine fracture)
   - Monitor Cr, UOP
   - Renally dose all meds
   # FEN: No IVF, replete electrolytes, tube feeds
   # Prophylaxis: Subutaneous heparin
   # Access: PIV x 2
   # Code:  DNR/DNI, confirmed with HCP
   # Communication: Patient. Daughter in law [**First Name9 (NamePattern2) 7045**] [**Known lastname **] ([**Telephone/Fax (1) 7046**])
   is HCP.
   # Disposition: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-7-7**] 01:34 AM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-7-6**] 06:50 PM
   20 Gauge - [**2112-7-6**] 06:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR/DNI
   Disposition:ICU

2112-07-08 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - RIJ placed
   - ID consult recommended vanc/zosyn/tobra/PO vanco/IV fluconazole
   - TTE normal biventricular systolic dysfunction, diastolic dysfunction,
   mild pHTN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2112-7-7**] 03:00 AM
   Piperacillin - [**2112-7-7**] 07:59 PM
   Tobramycin - [**2112-7-7**] 08:32 PM
   Fluconazole - [**2112-7-7**] 10:02 PM
   Vancomycin - [**2112-7-8**] 07:36 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-7-8**] 07:36 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-7-8**] 07:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-7-8**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 92 (87 - 105) bpm
   BP: 111/53(67) {95/22(41) - 147/113(96)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Height: 64 Inch
             Total In:
                                                                  3,433 mL
                                                                    754 mL
   PO:
             TF:
                                                                    523 mL
                                                                    365 mL
   IVF:
                                                                  2,106 mL
                                                                    328 mL
   Blood products:
                                                                    773 mL
   Total out:
                                                                  1,160 mL
                                                                    990 mL
   Urine:
                                                                  1,160 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,273 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   333 K/uL
   109 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   41 mg/dL
   105 mEq/L
   138 mEq/L
   26.8 %
   19.4 K/uL
        [image002.jpg]
                             [**2112-7-6**]  09:21 PM
                             [**2112-7-7**]  04:28 AM
                             [**2112-7-7**]  11:13 AM
                             [**2112-7-8**]  03:25 AM
   WBC
   24.2
   19.4
   Hct
   24.6
   26.8
   Plt
   357
   333
   Cr
   1.2
   1.3
   TropT
   0.18
   0.23
   0.23
   0.20
   Glucose
   94
   109
   Other labs: PT / PTT / INR:16.0/41.6/1.4, CK / CKMB /
   Troponin-T:38//0.20, ALT / AST:[**1-3**], Alk Phos / T Bili:73/0.4,
   Differential-Neuts:68.0 %, Band:1.0 %, Lymph:13.0 %, Mono:8.0 %,
   Eos:9.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:220 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Microbiology: Influenza negative
   Assessment and Plan
   [**Age over 90 **] yo man with h/o CAD, hypothyroidism, compression fx c/b
   polymicrobial hardware related vertebral osteomyelitis, and recent
   admission for pneumonia p/w dyspnea/cough.
   Hypotension/sepsis: Baseline BP usually 110s on antihypertensives per
   report. On minimal dopamine currently, lactate normalized. Pt afebrile
   and leukocytosis improving on broad antibiotics. Possible sources
   include pneumonia v. infected pleural effusion (cough, ?infiltrates),
   C. diff (neg x 1), also question of fungemia (heavy abx exposure, oral
   thrush), less likely spine (recent stable MRI findings).
   - Appreciate ID input; f/u recs
   - Diagnostic thoracentesis today
   - F/u KUB
   - F/u blood cultures, awaiting sputum culture
   - Vanc, zosyn, tobramycin for empiric coverage of HAP
   - Cont po vanc for empiric C diff coverage pending neg stool x 3
   - Cont IV fluc for empiric yeast coverage for now
   - Wean off dopamine with plan to diurese if BP stable (MAP>55)
   - Holding outpt metoprolol for now
   Dyspnea/Cough:  Leukocytosis and ground glass suggestive of pneumonia
   although CHF also on differential given diastolic dysfunction on TTE.
   .  Likely exacerbated by pleural effusion with compressive atelectasis.
   Unclear etiology, awaiting thoracentesis. No positive micro to date,
   awaiting sputum cx  CTA is negative for pulmonary embolism.  Ruled out
   for MI (although mildly elevated troponins and flat CKs).
   - Abx as above for HAP
   - diagnostic thoracentesis today
   - diuresis when BP stable off pressors
   Pleural effusion: Unclear etiology. TTE c/w grade I diastolic CHF with
   BNP 6239. Parapneumonic also possible. Does have anasarca with albumin
   of 2.5. TFT abnormal, awaiting free T4. No h/o malignancy.
   - F/u free T4
   - Albumin low at 2.5
   - Thoracentesis today
   - Hold diuresis for now in setting of lower running BP
   # Osteomyelitis: In setting of spine instrumentation/hardware. Swabs
   grew out rare bacteroides fragilis ( beta-lactamase positive) on [**5-5**]
   and  E. coli and Klebsiella Oxytoca on [**5-6**]. Swab and bone tissue
   culture on [**5-10**] grew out E. coli and B. fragilis. Treated with course of
   meropenem/ertapenem, completed [**7-4**] and switched to suppressive therapy
   with cefpodoxime and augmentin.  Inflammatory markers decreasing since
   mid [**Month (only) **].
   - Hold cefpodoxime and augmentin given broad abx coverage as above
   - Hold outpt neurontin for now given AMS, tylenol prn for pain
   - F/u ID recs
   - Appreciate wound recs
   # Altered mental status: Likely in setting of acute illness and lower
   running BP. Appears back to baseline.
   - Manage hypotension as above
   - Hold outpt neurontin, remeron for now
   - Able to take po
   # Hypothyroidism: TSH 14 on [**2112-6-23**], now 6.4.
   - F/u free T4
   - Cont home levothyroxine for now
   # CAD: H/o CAD s/p CABG [**23**] years ago. Reported new TWI at [**Hospital **] Rehab
   (ECG not available) but baseline at [**Hospital1 1504**] and here. Now ruled out
   for MI with mildly elevated troponins likely representing demand, now
   trending. No WMA on TTE.
   - Monitor on tele
   - Cont outpt ASA, resume metoprolol as BP tolerates
   # Chronic renal failure: Currently at baseline Cr 1.3 (since admission
   for spine fracture)
   - Monitor Cr, UOP
   - Renally dose all meds
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2112-7-8**] 06:17 AM 37 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-7-7**] 06:16 PM
   Multi Lumen - [**2112-7-7**] 06:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 25 minutes